US06297283B1
Preparation of trans-1-methyl-3,4-bis(tert-butoxycarbonylaminomethyl)pyrrolidine:
To a solution of 145 mg (0.44 mmol) of trans-3,4-bis(tert-butoxycarbonylaminomethyl)pyrrolidine synthesized by the process described above in acetonitrile (1.5 ml) were added 0.20 ml (2.7 mmol) of a 37% aqueous solution of formaldehyde and 46.9 mg (0.75 mmol) of sodium cyanoborohydride. The mixture was stirred for 20 minutes at room temperature. Acetic acid was then added to the resultant solution to adjust its pH to about 5. The solution was stirred for an additional 30 minutes at room temperature. A 1N aqueous solution of sodium hydroxide was added to the reaction mixture to adjust the pH of the reaction mixture to about 10, and extraction was then conducted with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel to obtain 90.1 mg (yield: 60%) of crude crystals of the title compound.

reactant | trans-3,4-bis(tert-butoxycarbonylaminomethyl)pyrrolidine | 0.44 mmol, 145 mg | C(C)(C)(C)OC(=O)NC[C@@H]1CNC[C@H]1CNC(=O)OC(C)(C)C | C16H31N3O4
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 0.75 mmol, 46.9 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | trans-1-methyl-3,4-bis(tert-butoxycarbonylaminomethyl)pyrrolidine | CN1C[C@H]([C@@H](C1)CNC(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C | C17H33N3O4
